US09024032B2
To a suspension of 5-(benzyloxy)-2-(hydroxymethyl)-4H-pyran-4-one (18.5 g, 80 mmol) in Et2O (130 mL) was added SOCl2 (18 mL, 110 mmol) at r.t. and the mixture was stirred for 1 h. The reaction mixture was poured onto ice-water and more Et2O was added. Then the Et2O phase was collected and water phase was extracted by Et2O twice, the combined Et2O layer was washed with brine, dried over Na2SO4, and concentrated. The residue was purified by silica gel chromatography to give 5-(benzyloxy)-2-(chloromethyl)-4H-pyran-4-one 1HNMR (DMSO, 400 MHZ) δ 8.27 (s, 1H), 7.32-7.41 (m, 5H), 6.55 (s, 1H), 4.92 (s, 2H), 4.65 (s, 2H). MS (M+H)+ 250.1/252.1.

reactant | 5-(benzyloxy)-2-(hydroxymethyl)-4H-pyran-4-one | 80 mmol, 18.5 g | C(C1=CC=CC=C1)OC=1C(C=C(OC1)CO)=O | C13H12O4
reactant | SOCl2 | 110 mmol, 18 mL | O=S(Cl)Cl | Cl2OS
solvent | Et2O | 130 mL | CCOCC | C4H10O
product | 5-(benzyloxy)-2-(chloromethyl)-4H-pyran-4-one | C(C1=CC=CC=C1)OC=1C(C=C(OC1)CCl)=O | C13H11ClO3
